US08802704B2
Step 3: 2′-ethyl-2-(trifluoromethyl)biphenyl-4-carboxylic acid
A 5N aqueous solution of NaOH (3 mL, 15 mmol) was added into a solution of methyl 2′-ethyl-2-(trifluoromethyl)biphenyl-4-carboxylate (3.05 g, 9.89 mmol) in EtOH (30 mL) and the resulting mixture was heated at 60° C. for 45 minutes. The reaction mixture was concentrated under vacuum. The residue was taken up with water (50 mL) and a 5N aqueous solution of HCl (5 mL), and then extracted with MTBE (2×100 mL). The organic layers were washed with brine (50 mL), combined, dried (MgSO4) and the solvent was removed under reduced pressure to give the title compound as a white powder (2.71 g, 93%). HPLC (Method A) Rt 4.8 min (Purity: 97.3%). LC/MS (Method B): 293.1 (M−H)−. 1H NMR (DMSO-d6, 300 MHz) δ 13.54 (s, 1H), 8.29 (d, J=1.5 Hz, 1H), 8.22 (dd, J=7.9, 1.5 Hz, 1H), 7.50 (d, J=7.9 Hz, 1H), 7.42-7.32 (m, 2H), 7.24 (m, 1H), 7.10 (d, J=7.5 Hz, 1H), 2.39-2.13 (m, 2H), 1.00 (t, J=7.6 Hz, 3H).

reactant | NaOH | 15 mmol, 3 mL | [OH-].[Na+]
reactant | methyl 2′-ethyl-2-(trifluoromethyl)biphenyl-4-carboxylate | 9.89 mmol, 3.05 g | C(C)C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)C(F)(F)F | C17H15F3O2
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2′-ethyl-2-(trifluoromethyl)biphenyl-4-carboxylic acid | 2.71 g, 93% | C(C)C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)C(F)(F)F | C16H13F3O2
